US08470820B2
Step 4: 2-Pyridin-2-yl-thiazol-5-ylamine
A solution of (2-pyridin-2-yl-thiazol-5-yl)-carbamic acid tert-butyl ester (200 mg, 0.72 mmol) in dioxane (3 ml) was treated with 4M HCl in dioxane (3 ml) and the resulting suspension was stirred at ambient temperature overnight. The reaction mixture was filtrated and the precipitate was dissolved in sodium hydroxide (20 ml, 0.5M aqueous solution) and extracted with dichloromethane. The combined organic phases were dried and the solvent was evaporated to yield the product as orange solid (78 mg, 60%) which was used without any further purification. MS: M=178.1 (M+H)+

reactant | (2-pyridin-2-yl-thiazol-5-yl)-carbamic acid tert-butyl ester | 0.72 mmol, 200 mg | C(C)(C)(C)OC(NC1=CN=C(S1)C1=NC=CC=C1)=O | C13H15N3O2S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-Pyridin-2-yl-thiazol-5-ylamine | 78 mg, 60% | N1=C(C=CC=C1)C=1SC(=CN1)N | C8H7N3S
